US06355633B1
4-Hydroxy-3-(morpholine-4-sulfonyl)-benzoic Acid, Methyl Ester
The 4-hydroxy-3-(morpholine-4-sulfonyl)-benzoic acid (4.0 g, 14 mmol) was dissolved in methanol and cooled to 0° C. Thionyl chloride (5 mL) was added slowly to the stirring solution. The solution was allowed to stir 15 h under nitrogen at room temperature. Water (10 mL) was added slowly to neutralize the thionyl chloride, and the solvent was removed under reduced vacuum. The concentrated oil was partitioned between ethyl acetate and water, and the ethyl acetate phase was washed with saturated sodium bicarbonate solution twice. The ethyl acetate was washed with brine, and dried using magnesium sulfate. Solvent was removed under vacuum to yield the crude oil. The crude was purified using silica gel (eluent 40% ethyl acetate/hexane) to provide the title compound (3.73 g,86%) as a white solid: 1HNMR (DMSO-d6) δ11.8-11.9 (bs, 1H), 8.22 (d, J=2 Hz, 1H), 8.05 (dd, J=9 Hz, 2 Hz, 1H), 7.14 (d, 9 Hz, 1H), 3.84 (m, 3H), 3.62 (m, 4H), 3.11 (m, 4H); MS (EI): M+ 301; Anal.Calc. for C12H15NO6S: C, 47.83; H, 5.02; N, 4.65. Found: C, 47.58; H, 4.95; N, 4.65.

reactant | 4-hydroxy-3-(morpholine-4-sulfonyl)-benzoic acid | 14 mmol, 4.0 g | OC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)N1CCOCC1 | C11H13NO6S
reactant | Thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | Water | 10 mL | O | H2O
reactant | methanol | CO | CH4O
product | 4-Hydroxy-3-(morpholine-4-sulfonyl)-benzoic Acid, Methyl Ester | 3.73 g, 86% | OC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)N1CCOCC1 | C12H15NO6S
